US04820698
5.97 g (17.4 mmol) of tetra-n-propyl methylenebisphosphonate, 2.61 g (86.8 mmol) of paraformaldehyde and 1.27 g (17.4 mmol) of diethylamine are combined with the same reactants and the same conditions as described above in Example I. This mixture is then refluxed for 46 hours. After the methanol is eliminated as described above in Example I, 4.46 g of tetra-n-propyl ethenylidenebisphosphonate is produced as a clear oil.

reactant | tetra-n-propyl methylenebisphosphonate | 17.4 mmol, 5.97 g | C(P(OCCC)(OCCC)=O)P(OCCC)(OCCC)=O | C13H30O6P2
reactant | paraformaldehyde | 86.8 mmol, 2.61 g | C=O | CH2O
reactant | diethylamine | 17.4 mmol, 1.27 g | C(C)NCC | C4H11N
solvent | methanol | CO | CH4O
product | tetra-n-propyl ethenylidenebisphosphonate | 4.46 g | C(=C)(P(OCCC)(OCCC)=O)P(OCCC)(OCCC)=O | C14H30O6P2
